Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
cough, shortness of breath, malaise
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ otherwise healthy with recent, one-time inhaled heroin use 
who presents as an ED transfer from ___ with respiratory 
symptoms, multifocal infiltrates on CXR and pneumomediastinum.

 He used inhaled heroin for the first time on ___ or ___ 
and passed out requiring significant sternal rub by his friend. 
His friend told him he vomited during this. The day after he 
developed pleuritic chest pain, a productive, nonbloody cough, 
and has a globus sensation in the back of his throat. He also 
felt generally achey and noticed some diarrhea. Denies 
fever/chills, does have decreased appetite this week. Despite 
globus sensation, denies dysphagia and is able to swallow. 

At ___ he was noted to have multifocal opacities as 
well as pneumomediastinum with a tiny, apical pneumothorax. He 
was transferred to ___ and was not hypoxemic. Barium swallow 
did not show esophageal performation
 
Past Medical History:
Previously healthy
 
Social History:
___
Family History:
No family history of lung diseases

 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric sclera
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation without wheezes or crackles 
with good air movement bilaterally.  Breathing is non-labored. 
Minimal crepitus over upper sternal area
GI: Abdomen soft, non-distended, non-tender to palpation. 
MSK: Neck supple, moves all extremities
SKIN: Abrasion over sternum
NEURO: Alert, oriented, face symmetric, speech fluent, moves all 
limbs, sensation to light touch grossly intact
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 08:04PM BLOOD WBC-13.1* RBC-5.00 Hgb-12.8* Hct-39.5* 
MCV-79* MCH-25.6* MCHC-32.4 RDW-13.7 RDWSD-38.8 Plt ___
___ 09:50AM BLOOD WBC-11.5* RBC-4.69 Hgb-12.1* Hct-36.1* 
MCV-77* MCH-25.8* MCHC-33.5 RDW-13.6 RDWSD-38.0 Plt ___
___ 07:57AM BLOOD WBC-14.2* RBC-5.32 Hgb-13.4* Hct-41.6 
MCV-78* MCH-25.2* MCHC-32.2 RDW-13.8 RDWSD-38.9 Plt ___
___ 08:04PM BLOOD Glucose-82 UreaN-14 Creat-0.8 Na-143 
K-4.9 Cl-110* HCO3-20* AnGap-13
___ 09:50AM BLOOD Glucose-72 UreaN-12 Creat-0.8 Na-144 
K-3.8 Cl-108 HCO3-23 AnGap-13
___ 07:57AM BLOOD Glucose-104* UreaN-10 Creat-0.9 Na-143 
K-4.2 Cl-106 HCO3-25 AnGap-12
___ 08:04PM BLOOD CK(CPK)-1380*
___ 09:50AM BLOOD CK(CPK)-728*
___ 08:04PM BLOOD cTropnT-0.02* proBNP-362*
___ 08:04PM BLOOD Calcium-8.2* Phos-2.2* Mg-2.2
___ 09:50AM BLOOD Calcium-8.4 Phos-2.4* Mg-2.0
___ 07:57AM BLOOD Calcium-9.0 Phos-2.3* Mg-1.8 Iron-42*
___ 07:57AM BLOOD calTIBC-203* Ferritn-281 TRF-156*
___ 11:16AM BLOOD freeCa-1.12

EKG: NSR

CXR:   
Subcutaneous emphysema along the bilateral upper chest extending 
into the neck 
with associated pneumomediastinum. 
  
Concern for tiny right apical pneumothorax without evidence of 
tension. 
  
Right mid to lower lung large consolidation and left base 
consolidation to a 
lesser extent, worrisome for multifocal pneumonia or aspiration. 


CXR ___:
Unchanged consolidations bilaterally.  No discrete pneumothorax 
or 
pneumomediastinum is identified.  Interval decrease in extent of 
the 
subcutaneous emphysema. 

 
Brief Hospital Course:
#Multifocal GGOs
#Tiny Pneumothorax (presumed secondary)
#Pneumomediastinum: Patient experienced persistence of 
respiratory and systemic symptoms after single, inhaled heroin 
use and transient unconsciousness on ___ which is concerning 
for bacterial infection arising after a likely macroaspiration 
event (friend reported vomiting). ___ organisms would 
still be CAP organisms however as his lacks a subacute/chronic 
indolent course, risk factors, and imaging findings of a true, 
anaerobic, aspiration pneumonia. He lacks risk factors for MRSA 
or MDR GNRs. Other possibilities include chemical aspiration 
pneumonitis, acute eosinophilic pneumonia, or diffuse alveolar 
damage (similar to crack lung), though patient is not hypoxemic 
at rest and has not experienced hemoptysis. Pneumothorax and 
pneumomediastinum have been described in inhaled cocaine use 
with valsalva implicated. A similar process may have occurred. 
He was treated with levofloxacin (beta-lactam allergy) for CAP 
organisms with improvement in his symptoms. Barium swallow did 
not show esophageal perforation. Thoracic surgery evaluated the 
patient, but without perforation, care was supportive. His 
saturations remained WNL on room air at rest, though NC O2 was 
provided to help his pneumothorax resolve. A mild leukocytosis 
was present but stable. Repeat CXR showed improvement of the 
subcutaneous emphysema and resolution of the pneumothorax. With 
longer walking his O2 saturation did dip to 85%, thought with 
quick recovery with rest, and on shorter walks his saturation 
stayed above 90%. With this further observation in the hospital 
was recommended, but the patient strongly requested to return 
home. Return precautions were discussed with the patient and his 
family. An incentive spirometer was provided. He will complete a 
7-day course of levofloxacin.

#Heroin intoxication: Per patient, this was a first, one-time 
use encouraged by roommate. Evaluation by a licensed mental 
health professional was recommended, but the patient declined. 
He was counseled on future avoidance, and the patient stated he 
has no intention of experimenting with this again. He was also 
counseled on all smoking cessation in light of his respiratory 
illness.

#Mild, microcytic anemia: Hgb in the ___ with MCV in the ___. 
Iron studies were not consistent with iron deficiency but were 
in the range of anemia of chronic disease. Without a previous 
known condition to drive this, thalassemia minor may be an 
alternative etiology. Recommending repeating CBC on follow up.

Mr. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
was greater than 30 minutes.
 
Discharge Medications:
1.  LevoFLOXacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia
Pneumothorax
Subcutaneous emphysema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were seen at ___ for respiratory problems that may be 
secondary to pneumonia. It is possible the vomiting you 
experienced earlier in the week may have contributed as well. We 
recommend continuing antibiotics (levofloxacin) through ___. 
Please call your doctor if you feel your symptoms are not 
improving. If you experience new or worsening symptoms, please 
go to the emergency department
 
Followup Instructions:
___